US09422281B2
A 100-mL round-bottom flask was purged with nitrogen and charged with cyclopropylmethyl (3S)-4-acetyl-7-bromo-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate (1 g, 2.72 mmol), tert-butyl 4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-carboxylate (953 mg, 3.24 mmol), sodium carbonate (573 mg, 5.41 mmol), [1,1′bis(diphenylphosphino) ferrocene]dichloropalladium(II) dichloromethane complex (265 mg, 0.326 mmol), 1,4-dioxane (9 mL), and water (3 mL). The resulting mixture was stirred overnight at 100° C. After cooling to room temperature, the reaction mixture was poured into water (20 mL). The aqueous layer was separated and extracted with ethyl acetate (4×40 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 1:1, ethyl acetate/petroleum ether) to afford cyclopropylmethyl (3S)-4-acetyl-3-methyl-7-(1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinoxaline-1-carboxylate (400 mg, 41%) of as a yellow solid. MS (ESI, pos. ion) m/z 355 [M+H]+.

reactant | cyclopropylmethyl (3S)-4-acetyl-7-bromo-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate | 2.72 mmol, 1 g | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OCC1CC1)C | C16H19BrN2O3
reactant | tert-butyl 4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-carboxylate | 3.24 mmol, 953 mg | CC1(C(OB(O1)C=1C=NN(C1)C(=O)OC(C)(C)C)(C)C)C | C14H23BN2O4
reactant | sodium carbonate | 5.41 mmol, 573 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | water | 3 mL | O | H2O
product | cyclopropylmethyl (3S)-4-acetyl-3-methyl-7-(1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinoxaline-1-carboxylate | 400 mg, 41% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NNC1)C(=O)OCC1CC1)C | C19H22N4O3
